US04173650
2-(p-Fluorobenzoyl)-3-hydroxycrotononitrile
A solution of 1.35 g. (0.006 m) of 2-(p-fluorobenzoyl)-3-dimethylaminocrotononitrile in a mixture of 15 ml. methanol and 8 ml. of 1 N HCl was heated on the steam bath in an open beaker for 45 minutes. Upon cooling in an ice bath, a solid formed, was collected, and then recrystallized from cyclohexane-petroleum ether with charcoal treatment, giving 0.7 g. (64%) of light pinkish crystals, m.p. 65°-67° C.

reactant | 2-(p-fluorobenzoyl)-3-dimethylaminocrotononitrile | FC1=CC=C(C(=O)/C(/C#N)=C(\C)/N(C)C)C=C1 | C13H13FN2O
reactant | HCl | 1 N | Cl | ClH
reactant | methanol | CO | CH4O
product | 2-(p-Fluorobenzoyl)-3-hydroxycrotononitrile | FC1=CC=C(C(=O)/C(/C#N)=C(\C)/O)C=C1 | C11H8FNO2
